US07964625B2
100 mmol 3,4-dimethylaniline and 50 mmol diethyl malonate were put together and stirred overnight at 170° C. The formed ethanol was distilled off directly (100 mmol≡6.6 mL) on a stream of nitrogen. N1,N3-di(3,4-dimethylphenyl)malonamide was formed as one solid block. The reaction was cooled and EtOAc was added. The product had to be crushed with a mortar, because it resembled very hard brick. The crushed material was stirred in EtOAc and filtered. EtOAc added was added twice and the mixture was stirred and filtered each time. 13.9 g N1,N3-di(3,4-dimethylphenyl)malonamide was obtained (yield 89.6%, purity 98.5%)

reactant | 3,4-dimethylaniline | 100 mmol | CC=1C=C(N)C=CC1C | C8H11N
reactant | diethyl malonate | 50 mmol | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | N1,N3-di(3,4-dimethylphenyl)malonamide | CC=1C=C(C=CC1C)NC(CC(=O)NC1=CC(=C(C=C1)C)C)=O | C19H22N2O2
